US08314097B2
F. 5-Biphenyl-2-yl-8-methyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine
To a solution of 5-(2-bromophenyl)-8-methyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine (573 mg, 1.97 mmol) in DME (10 mL) is added phenylboronic acid (480 mg, 3.94 mmol), aqueous Na2CO3 (2M, 4 mL, 8.0 mmol), and Pd(PPh3)4 (500 mg). The reaction mixture is stirred at reflux overnight. The mixture is partitioned between EtOAc and brine. The organic layer is washed by brine, dried over Na2SO4 and concentrated to give an oil, which is subjected to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 289 (M+H)

reactant | 5-(2-bromophenyl)-8-methyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine | 1.97 mmol, 573 mg | BrC1=C(C=CC=C1)C1CCC(C=2N1C=NC2)C | C14H15BrN2
reactant | phenylboronic acid | 3.94 mmol, 480 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 8.0 mmol, 2M, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Biphenyl-2-yl-8-methyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyridine | C1(=C(C=CC=C1)C1CCC(C=2N1C=NC2)C)C2=CC=CC=C2 | C20H20N2
